US04992574
47.1 g of bromobenzene and 37.8 g of phorone are stirred at room temperature for 48 hours in the presence of 40 g of aluminum trichloride in 600 ml of carbon disulfide. The reaction mixture is then poured on to ice, extracted with diethyl ether. The extract is washed with water, dried and evaporated. After chromatography on silica gel with petroleum ether (low-boiling) and ethyl acetate (9:1) and recrystallization from hexane, there is obtained 2-bromo-5,6,8,9-tetrahydro-5,5,9,9-tetramethyl-7H-benzocyclohepten-7-one of m.p. 104°-105°.

reactant | bromobenzene | 47.1 g | BrC1=CC=CC=C1 | C6H5Br
reactant | phorone | 37.8 g | CC(C)=CC(C=C(C)C)=O | C9H14O
reactant | aluminum trichloride | 40 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulfide | 600 ml | C(=S)=S | CS2
product | 2-bromo-5,6,8,9-tetrahydro-5,5,9,9-tetramethyl-7H-benzocyclohepten-7-one | BrC=1C=CC2=C(C(CC(CC2(C)C)=O)(C)C)C1 | C15H19BrO
